US07598248B2
(S,Z)-1-(1-phenylethyl)-6-(prop-1-enyl)-1H-imidazo[4,5-b]pyrazin-2-ol.
A scintillation vial equipped with a stirbar was charged with (S)-6-bromo-1-(1-phenylethyl)-1H-imidazo[4,5-b]pyrazin-2-ol (1.0 equiv), (Z)-prop-1-enyl boronic acid (2.0 equiv) and (DPPF)PdCl2 (0.10 equiv). The vial was fitted with a septum-lined cap and purged with nitrogen for 5-10 min. To this mixture was added dioxane (16.6 volume equivalents) and degassed 2 N K2CO3 (4.2 volume equivalents) by syringe. The resulting mixture was heated to 90° C. overnight. The mixture was cooled to room temperature, diluted with EtOAc, washed with twice with saturated aq. NaHCO3, and once with brine. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Biotage MPLC 5%-40% EtOAc/Hexanes) provided the title compound (63%) as an off-white foam. LCMS m/z (APCI)=281.1 (M+H).

reactant | (S)-6-bromo-1-(1-phenylethyl)-1H-imidazo[4,5-b]pyrazin-2-ol | 1.0 equiv | BrC1=CN=C2C(=N1)N(C(=N2)O)[C@@H](C)C2=CC=CC=C2 | C13H11BrN4O
reactant | (Z)-prop-1-enyl boronic acid | 2.0 equiv | C(=C/C)/B(O)O | C3H7BO2
product | (S,Z)-1-(1-phenylethyl)-6-(prop-1-enyl)-1H-imidazo[4,5-b]pyrazin-2-ol | 63% | C1(=CC=CC=C1)[C@H](C)N1C(=NC=2C1=NC(=CN2)\C=C/C)O | C16H16N4O
